US06110913
A suspension of sodium amide (2.6 g, 0.033 mol, 50%wt suspension in toluene) was added to a solution of 3-dimethylamino-10,11-dihydro-5H-dibenz[b,f]azepine (6.1 g, 0,0256 mol, prepared similarly as described in Brit. Pat., 1040739,1966) in dry benzene (60 ml). The reaction mixture was heated to 70° C. for 1 h. 3-Bromo-1-propyl-tetrahydro-2-pyranyl ether (7.35 g, 0.033 mol) was added and the mixture was heated at reflux temperature for 20 h. To the cooled reaction mixture, water (20 ml) was added, and the phases were separated. The solvent was evaporated from the organic phase and the residue was dissolved in a mixture of methanol (100 ml) and 5 N HCl (30 ml). The mixture was heated at reflux temperature for 15 minutes, and methanol was evaporated. Water (50 ml) was added, pH was adjusted to 8-9 with aqueous ammonia and the mixture was extracted with benzene (2×150 ml). The combined organic extracts were dried (K2CO3), filtered and the solvent was evaporated under vacuum. The residue, was purified by chromatography on silica gel (50 g) using first benzene as eluent to isolate the starting material. Then, using chloroform as eluent, 3.5 g of 3-(3-dimethylamino-10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanol as an oil was isolated.

reactant | sodium amide | 0.033 mol, 2.6 g | [NH2-].[Na+]
reactant | 3-dimethylamino-10,11-dihydro-5H-dibenz[b,f]azepine | CN(C=1C=CC2=C(NC3=C(CC2)C=CC=C3)C1)C | C16H18N2
reactant | water | 20 ml | O | H2O
reactant | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(3-dimethylamino-10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)-1-propanol | 3.5 g | CN(C=1C=CC2=C(N(C3=C(CC2)C=CC=C3)CCCO)C1)C | C19H24N2O
